US08034396B2
An acetylenic derivative was prepared for use in a click reaction. About 15.75 grams (about 25 mmoles) of pentaerythritol propoxylate was slowly added to about 21.81 grams (about 125 mmoles) of 2,4-tolylene diisocyanate (TDI) at room temperature (about 21±5° C.). The mixture was then heated at about 65° C. for about 18 hours. The reaction mixture was washed seven times with petroleum ether. For each of the washings, about 45 mL of petroleum ether was added and the reaction mixture was stirred at about 65° C. for a period of time of from about 10 minutes to about 15 minutes. The mixture was decanted and the supernatant petroleum ether was removed with a pipette. The process was repeated six times; the resulting material was dried under a vacuum to provide a pentaerythritol propoxylate-TDI adduct. The material had a free isocyanate content of about 13.49%, as determined by titration. The pentaerythritol propoxylate-TDI adduct was of the formula depicted in FIG. 1, where n was from about 1 to about 15.

reactant | pentaerythritol propoxylate | about 25 mmoles, 15.75 grams | CC(CO)O.C(C(CO)(CO)CO)O
reactant | 2,4-tolylene diisocyanate | about 125 mmoles, about 21.81 grams | CC=1C(=CC(=CC1)N=C=O)N=C=O | C9H6N2O2
product | pentaerythritol propoxylate TDI | CC(CO)O.C(C(CO)(CO)CO)O.CC=1C(=CC(=CC1)N=C=O)N=C=O | InChI=1S/C9H6N2O2.C5H12O4.C3H8O2/c1-7-2-3-8(10-5-12)4-9(7)11-6-13;6-1-5(2-7,3-8)4-9;1-3(5)2-4/h2-4H,1H3;6-9H,1-4H2;3-5H,2H2,1H3
